US07585881B2
3-chloro-N′-{[(2R)-2-hydroxypropanoyl]oxy}benzenecarboximidamide
3.82 g (22.4 mmol) of 3-chloro-N′-hydroxybenzenecarboximidamide and 2.00 g (22.2 mmol) of (R)-lactic acid were dissolved under Ar at 0° C. in DCM (50 mL) and DMF (15 mL). After 5 min 3.4 mL (33.2 mmol) DIC and 3.50 g (25.9 mmol) HOBt were added. After 15 min the mixture was warmed to r.t. and stirred for additional 3 h, followed by filtration and washing with DCM. The filtrate was evaporated in vacuo to near dryness, taken up in EA and washed with aq. NaHCO3, followed by water and finally 2 M aq. citric acid. The EA layer was filtered over a mixture of Na2SO4 and silica. Flash chromatography (Hep/EA=4/1 to 2/1 to 1/2) gave an oil which was triturated with Et2O to yield after drying 4 g (75%) of the title compound. 1H NMR: 7.69 (t, 1 H), 7.55-7.59 (m, 1 H), 7.44-7.49 (m, 1 H), 7.36 (t, 1 H), 5.10 (s, 2 H), 4.50 (q, 1 H), 1.54 (d, 3 H)

reactant | 3-chloro-N′-hydroxybenzenecarboximidamide | 22.4 mmol, 3.82 g | ClC=1C=C(C=CC1)C(N)=NO | C7H7ClN2O
reactant | (R)-lactic acid | 22.2 mmol, 2.00 g | C([C@H](O)C)(=O)O | C3H6O3
reactant | DIC | 33.2 mmol, 3.4 mL | CC(N=C=NC(C)C)C | C7H14N2
reactant | HOBt | 25.9 mmol, 3.50 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 3-chloro-N′-{[(2R)-2-hydroxypropanoyl]oxy}benzenecarboximidamide | ClC=1C=C(C=CC1)C(N)=NOC([C@@H](C)O)=O | C10H11ClN2O3
